US05506219
A solution of Dess-Martin periodinane (1.04 gm, 2.45 mmol) in dry CH2Cl2 (12 ml) was treated with t-butanol (182 mg, 2.46 mmol) and stirred at room temperature for 15 minutes. A slurry of 4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinemethanol (555 mg, 1.89 mmol) in CH2Cl2 (10 ml) and CH3CN (2 ml) was then added and stirring was continued for 25 minutes. The mixture was diluted with Et2O (50 ml) and poured into 1N NaOH (25 ml) and stirred for 5 minutes. The phases were separated and the organic layer was washed successfully with 1N NaOH, H2O, and brine, then dried (Na2SO4). Filtration and removal of the solvent afforded a solid. The solid was dissolved in hot hexane/EtOAc and the resulting solution was cooled to 0° C., filtered and stripped to give a residue which was chromatographed (Flash, Merck SiO2, 20% EtOAc in hexane). 4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinecarboxaldehyde was obtained as a white solid (458 mg, 83%). Analytically pure material was obtained by recrystallization from hot hexane.

reactant | Dess-Martin periodinane | 2.45 mmol, 1.04 gm | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | t-butanol | 2.46 mmol, 182 mg | C(C)(C)(C)O | C4H10O
reactant | 4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinemethanol | 1.89 mmol, 555 mg | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C)CO | C19H16FNO
reactant | NaOH | 1N, 25 ml | [OH-].[Na+]
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH3CN | 2 ml | CC#N | C2H3N
solvent | Et2O | 50 ml | CCOCC | C4H10O
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinecarboxaldehyde | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C)C=O | C19H14FNO
